US08012976B2
A mixture of (E)-4-(benzylideneamino)isobenzofuran-1(3H)-one (500 mg, 2.1 mmol) and 1-methyl-1H-imidazole-2-carbaldehyde (255 mg, 2.3 mmol) in ethyl propionate (20 mL) was cooled to 0° C. Then a solution of sodium ethoxide in ethanol [sodium (194 mg, 8.4 mmol) in ethanol (10 mL)] was added dropwise. After the addition, the mixture was stirred at room temperature for 2.5 hr. The mixture was quenched with water (20 mL) and solvent was removed in vacuum. The residue was dissolved in water, and filtered; the cake was washed by water, then ethyl acetate to obtain ethyl 3-(1-methyl-1H-imidazol-2-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate as a yellow solid. The solid was dried in vacuum at 50° C. (140 mg, yield 18%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 1.18-1.21 (t, J=7.2 Hz, 3H), 3.31 (s, 3H), 4.16-4.19 (m, 2H), 4.56-4.59 (d, J=13.2 Hz, 1H), 5.14-5.17 (d, J=13.2 Hz, 1H), 6.54-6.56 (d, J=7.2 Hz, 1H), 6.72 (s, 1H), 6.86 (s, 1H), 6.98-6.99 (d, J=4.8 Hz, 1H), 7.24-7.29 (m, 3H), 7.34-7.38 (t, J=8.0 Hz, 1H), 7.42-7.44 (d, J=7.2 Hz, 2H), 7.49 (s, 1H); LC-MS (ESI) m/z: 376 (M+1)+.

reactant | (E)-4-(benzylideneamino)isobenzofuran-1(3H)-one | 2.1 mmol, 500 mg | C(/C1=CC=CC=C1)=N\C1=C2COC(C2=CC=C1)=O | C15H11NO2
reactant | 1-methyl-1H-imidazole-2-carbaldehyde | 2.3 mmol, 255 mg | CN1C(=NC=C1)C=O | C5H6N2O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 8.4 mmol, 10 mL, 194 mg | C(C)O | C2H6O
solvent | ethyl propionate | 20 mL | C(CC)(=O)OCC | C5H10O2
product | ethyl 3-(1-methyl-1H-imidazol-2-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | yield 18% | CN1C(=NC=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=CC=C1 | C22H21N3O3
